US05200526
To 2-aminoethanethiol hydrochloride (201 mg, 1.77 mmol) in degassed H2O (3.0 mL) was added (S)-3-amino-2-oxetanone trifluoroacetic acid salt (produced from BOC-L-serine β-lactone (151 mg, 0.807 mmol)) in H2O (1.0 mL). The pH of the stirred solution was maintained at 5.0-5.5 by dropwise addition of 1N NaOH. When additions of base were no longer required to maintain the pH at 5.5 (~35 min), the mixture was applied to a column of BioRad AG50-X8 (trademark) (80 mL, 3 cm dia., H+ form) and eluted with a linear gradient (0 to 0.2M over 1.0 L) of aqueous HC1 (2 mL/min). Lyophilization of the chromatographically pure fractions yielded 138 mg 85%) of S-(aminoethyl)-L-cysteine hydrochloride which was recrystallized from EtOH/acetone (85% recovery) for elemental analysis: mp 193°-194° C. (dec) (lit. mp 192°-192.5° C., 205°-207° C.); [α]D 25 +7.2 (c 1.0, H2O) (lit. [α]D +7.2 (c 1, H2O)); IR (KBr disk) 3650-2100 (s, br), 2000 (W, br), 1622 (s), 1587 (s), 1516 (s), 1494 (s), 1463 (s), 1427 (s), 1415 (s), 1400 (s), 1348 (s), 1303 (s), 560 (m) cm-1 ; 1H-NMR (300 MHz, D2O)δ 4.00 (dd, 1H, 4.8, 6.0 Hz, CH), 3.27 (t, 2H, 6.5 Hz, CH2NH3+), 3.16 (dd, 1H, 4.8, 14 Hz, CHCHHS), 3.14 (d, 6.0, 14 Hz, CHCHHS), 2.94 (t of d, 1H, 6.5, 14 Hz, SCHH), 2.92 (t of d, 1H, 6.5, 14.0 Hz, SCHH). Anal. Calc. for C5H13N2O2SCl: C, 29.92; H, 6.54; N, 13.96; Cl, 17.66; S, 15.97. Found: C, 29.59; H, 6.44; N, 13.98; Cl, 17.40; S, 15 88; POSFAB-MS (glycerol/HC1) 165 (MH+), 329 (M2H+); Rf~0.20 (System A).

reactant | 2-aminoethanethiol hydrochloride | 1.77 mmol, 201 mg | Cl.NCCS
reactant | (S)-3-amino-2-oxetanone trifluoroacetic acid salt | 0.807 mmol, 151 mg | FC(C(=O)O)(F)F.N[C@@H]1C(OC1)=O
reactant | NaOH | 1N | [OH-].[Na+]
solvent | H2O | 3.0 mL | O | H2O
solvent | H2O | 1.0 mL | O | H2O
product | S-(aminoethyl)-L-cysteine hydrochloride | Cl.NCCSC[C@H](N)C(=O)O | InChI=1S/C5H12N2O2S.ClH/c6-1-2-10-3-4(7)5(8)9;/h4H,1-3,6-7H2,(H,8,9);1H/t4-;/m0./s1
